US07960394B2
(4) Production of 3-amino-4-methoxypyridine-2-carboxylic acid
4-Methoxy-3-nitropyridine-2-carboxylic acid (1.35 g, 6.81 mmol), sodium hydrogencarbonate (690 mg, 817 mmol), water (10 mL) and 10% palladium-carbon (135 mg) were stirred in a hydrogen atmosphere at room temperature for 24 hours. The reaction solution was filtered through Celite, the Celite was washed with water and methanol, and the mother liquid was concentrated. 2 N hydrochloric acid was added to the resulting residue, and the solution was controlled to have a pH of 1. The reaction solution was stirred at 0° C. for 1 hour, and the resulting pale gray solid was taken out through filtration and dried to obtain the intended compound (940 mg, 56%).

reactant | 4-Methoxy-3-nitropyridine-2-carboxylic acid | 6.81 mmol, 1.35 g | COC1=C(C(=NC=C1)C(=O)O)[N+](=O)[O-] | C7H6N2O5
reactant | sodium hydrogencarbonate | 817 mmol, 690 mg | C(O)([O-])=O.[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 135 mg | [C].[Pd]
solvent | water | 10 mL | O | H2O
product | 3-amino-4-methoxypyridine-2-carboxylic acid | 940 mg, 56% | NC=1C(=NC=CC1OC)C(=O)O | C7H8N2O3
